US07635711B2
Synthesis of 2,4,6-Trimethyl-N-[2,2,2-trifluoro-1-(5-hydroxy-1H-indol-3-ylmethyl)ethyl]benzenesulfonamide
To a stirred solution of 60 mg (0.14 mmol) of 2,4,6-trimethyl-N-[2,2,2-trifluoro-1-(5-methoxy-1H-indol-3-ylmethyl)ethyl]benzenesulfonamide in 1 mL of anhydrous dichloromethane was slowly added 0.34 mL (0.34 mmol) of a 1 M solution of boron tribromide in dichloromethane. After 3 hours at room temperature, the reaction was cooled in ice, quenched with 0.5 mL of cold water and stirred for 5 minutes. The reaction mixture was diluted with 50 mL of dichloromethane, filtered through CELITE® filter aid, and concentrated in vacuo. The crude mixture was purified by preparative TLC eluting with dichloromethane-ethyl acetate (85:15) to afford 35 mg (60%) of the title compound as an off-white solid.

reactant | 2,4,6-trimethyl-N-[2,2,2-trifluoro-1-(5-methoxy-1H-indol-3-ylmethyl)ethyl]benzenesulfonamide | 0.14 mmol, 60 mg | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)NC(C(F)(F)F)CC1=CNC2=CC=C(C=C12)OC | C21H23F3N2O3S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 2,4,6-Trimethyl-N-[2,2,2-trifluoro-1-(5-hydroxy-1H-indol-3-ylmethyl)ethyl]benzenesulfonamide | 35 mg, 60% | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)NC(C(F)(F)F)CC1=CNC2=CC=C(C=C12)O | C20H21F3N2O3S
